US05849958
Preparation of 4-Fluoro-3-phenoxybenzeneboronic acid
A solution of 5-bromo-2-fluorophenyl phenyl ether (8.01 g, 30 mmol) in tetrahydrofuran is added dropwise over 30 minutes to a mixture of magnesium turnings (0.0802 g, 33 mmol), a crystal of iodine and a few drops of 1,2-dibromoethane in tetrahydrofuran at 50°-55° C. under nitrogen. After the addition is complete, the reaction mixture is stirred at 50°-55° C. for 70 minutes and cooled to room temperature. The cooled mixture is added over 25 minutes to a solution of trimethyl borate (4.09 mL, 36 mmol) in diethyl ether at dry ice/acetone bath temperature. After the addition is complete, the mixture is stirred at dry ice/acetone bath temperature for 20 minutes, allowed to warm to -10° C. over 25 minutes, diluted sequentially with acetic acid and water, stirred at room temperature for 30 minutes, and extracted with ether. The organic extract is washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. A mixture of the residue in water is heated over a steam bath for 30 minutes, cooled to room temperature and filtered to obtain a solid which is washed with hexanes and dried to give the title product as a colorless solid (5.7 g, mp 177°-180° C., 82% yield)

reactant | 5-bromo-2-fluorophenyl phenyl ether | 30 mmol, 8.01 g | C1(=CC=CC=C1)OC1=C(C=CC(=C1)Br)F | C12H8BrFO
reactant | magnesium | 33 mmol, 0.0802 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | trimethyl borate | 36 mmol, 4.09 mL | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-Fluoro-3-phenoxybenzeneboronic acid | 5.7 g, 82% yield | FC1=C(C=C(C=C1)B(O)O)OC1=CC=CC=C1 | C12H10BFO3
